US07115750B1
N-[4-[2-[[2-(Dimethylamino)ethyl]amino]-2-oxoethyl]phenyl]-2-(4-nitrophenyl)acetamide
2-(4-Aminophenyl)-N-[2-(dimethylamino)ethyl]acetamide (221 mg), WSC (free form: 0.23 ml), 1-hydroxybenzotriazole (199 mg), and dimethylaminopyridine (244 mg) were added to a DMF (5 ml) solution of 4-nitrophenylacetic acid (181 mg), which was stirred for 4 hours. The reaction mixture was poured into water, and extraction was conducted using ethyl acetate. The organic layer was washed with water, saturated aqueous sodium bicarbonate solution, and saturated aqueous sodium chloride solution, dried over sodium sulfate, and then concentrated. The residue was recrystallized from methanol, to give the titled compound (80 mg).

reactant | 2-(4-Aminophenyl)-N-[2-(dimethylamino)ethyl]acetamide | 221 mg | NC1=CC=C(C=C1)CC(=O)NCCN(C)C | C12H19N3O
reactant | WSC | 0.23 ml | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 199 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dimethylaminopyridine | 244 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-nitrophenylacetic acid | 181 mg | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-[4-[2-[[2-(Dimethylamino)ethyl]amino]-2-oxoethyl]phenyl]-2-(4-nitrophenyl)acetamide | 80 mg | CN(CCNC(CC1=CC=C(C=C1)NC(CC1=CC=C(C=C1)[N+](=O)[O-])=O)=O)C | C20H24N4O4
